US08975406B2
(S)-tert-Butyl 3-((methylsulfonyl)oxy)pyrrolidine-1-carboxylate (0.53 g, 2.0 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (0.48 g, 2.2 mmol) and K2CO3 (0.33 g, 2.4 mmol) in DMF (5 mL) were heated at 85° C. for 1 d. The reaction mixture was concentrated in vacuo and Et2O and water were added. The aqueous phase was extracted with Et2O and the combined organics were washed with 1 M NaOH solution (aq), dried (MgSO4), filtered and concentrated in vacuo to give (R)-tert-butyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)pyrrolidine-1-carboxylate which was used in the next step without further purification.

reactant | (S)-tert-Butyl 3-((methylsulfonyl)oxy)pyrrolidine-1-carboxylate | 2.0 mmol, 0.53 g | CS(=O)(=O)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C10H19NO5S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 2.2 mmol, 0.48 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | K2CO3 | 2.4 mmol, 0.33 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)pyrrolidine-1-carboxylate | CC1(OB(OC1(C)C)C1=CC=C(O[C@H]2CN(CC2)C(=O)OC(C)(C)C)C=C1)C | C21H32BNO5
